US06699992B2
53.0 g of ethyl 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0161 mol), 15.4 ml of benzyl amine, and 37.0 g of anhydrous K2CO3 in 220 ml of acetonitrile were stirred at 100-110° C. for 1 hour. The reaction was monitored by TLC. After the solvent was evaporated, the residue was re-crystallized from ethanol to give 53.7 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0.129 mol) in 80.0% yield, mp 133-135° C.

reactant | ethyl 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 53.0 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)OCC | C15H11F4NO3
reactant | benzyl amine | 15.4 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | K2CO3 | 37.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
product | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.129 mol, 53.7 g, 80.0% yield | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
